US04599205
(a) 3-Benzylamino-1-hexadecyloxy-propan-2-ol
A mixture of 24.4 g of benzylamine, 100 cc. of tetrahydrofurane and 34 g of hexadecyl-2.3-epoxypropylether is refluxed for 8 hours and the solvent is evaporated in a vacuo. The residue is recrystallized from hexane.

reactant | benzylamine | 24.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | hexadecyl-2.3-epoxypropylether | 34 g | C(CCCCCCCCCCCCCCC)C1C(COCC2C(CCCCCCCCCCCCCCCC)O2)O1 | C38H74O3
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 3-Benzylamino-1-hexadecyloxy-propan-2-ol | C(C1=CC=CC=C1)NCC(COCCCCCCCCCCCCCCCC)O | C26H47NO2
